US05366982
4-phenyl-2-quinolinone
Benzoylacetanilide (150 g) (prepared according to the method of Brown et al., J. Am. Chem. Soc., 79, 2919, (1957)) in concentrated sulphuric acid (76%) (130 cc) is heated for 4 hours at 100° C. The reaction mixture is slowly poured with stirring in distilled water (3150 cc). The precipitate obtained is filtered, washed with water and then with acetone, and dried at 40° C. under reduced pressure. The residue obtained is recrystallised in ethanol. (white solid; m.p.=268°-269° C.)

reactant | Benzoylacetanilide | 150 g | C(C1=CC=CC=C1)(=O)CC(=O)NC1=CC=CC=C1 | C15H13NO2
solvent | sulphuric acid | 130 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 3150 cc | O | H2O
product | 4-phenyl-2-quinolinone | C1(=CC=CC=C1)C1=CC(NC2=CC=CC=C12)=O | C15H11NO
